US08193378B2
5-Bromo-3-(trifluoromethyl)-2-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}pyridine (500 mg) was dissolved in a mixed vehicle of DMSO (5 mL) and MeOH (5 mL). Then, TEA (0.42 mL) was added thereto at 25° C., and then Pd(OAc)2(17 mg) and DPPP (60 mg) were added thereto at 25° C., followed by stirring at 70° C. for 15 hours under a CO atmosphere. To the reaction solution was added water (30 mL), followed by extraction with EtOAc (20 mL) three times. The organic layer was washed with brine, dried over MgSO4, and then filtered, and the filtrate was concentrated. The residue was purified by silica gel column chromatography (automatic purification device, developing solution; hexane:EtOAc=100:0 to 80:20) to obtain methyl 5-(trifluoromethyl)-6-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}nicotinate (403 mg) as a yellow solid.

reactant | 5-Bromo-3-(trifluoromethyl)-2-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}pyridine | 500 mg | BrC=1C=C(C(=NC1)O[C@H](C(F)(F)F)C)C(F)(F)F | C9H6BrF6NO
reactant | DPPP | 60 mg | C1=CC=C(C=C1)P(CCCP(C2=CC=CC=C2)C3=CC=CC=C3)C4=CC=CC=C4 | C27H26P2
reactant | water | 30 mL | O | H2O
reactant | MeOH | 5 mL | CO | CH4O
solvent | DMSO | 5 mL | CS(=O)C | C2H6OS
catalyst | Pd(OAc)2 | 17 mg | CC(=O)[O-].CC(=O)[O-].[Pd+2]
product | methyl 5-(trifluoromethyl)-6-{[(2S)-1,1,1-trifluoropropan-2-yl]oxy}nicotinate | 403 mg | FC(C=1C(=NC=C(C(=O)OC)C1)O[C@H](C(F)(F)F)C)(F)F | C11H9F6NO3
